US07528129B2
20d) (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate
A solution of 100 mg (0.15 mmol) (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate, 53 mg (0.16 mmol) TBTU and 26 μL (0.19 mmol) triethylamine in 1 mL DMF was stirred for 15 min at RT. Then 28 mg (0.16 mmol) 1-(tetrahydropyran-4-yl)-piperazine was added and the reaction solution was stirred for 2 h. The reaction solution was purified by HPLC without any further working up; the fractions containing the product were combined and lyophilised.

reactant | (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate | 0.15 mmol, 100 mg | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O | C27H28N4O6
reactant | TBTU | 0.16 mmol, 53 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.19 mmol, 26 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.16 mmol, 28 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)O)C | C36H44N6O6
